data/rdb19/train.csv
rxn,smiles,ea
4614,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12].[N:21]([C:22](=[O:23])[H:34])[H:33],66.18367387447506
2714,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[O:23][C:22]([O:21][C:20]([H:27])([H:28])[H:29])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:13])[H:14])([H:10])([H:11])[H:12],30.40760946529917
2222,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[O:12][C:11]([O:10][C:9]([C:8]([H:17])([H:18])[H:19])([H:20])[H:21])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:5])([H:6])[H:7],35.9638127227081
893,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],42.97660738666309
4996,[C:11]([O:12][C:13]([C:14]([H:22])([H:23])[H:24])([C:15]([H:16])[H:17])[H:21])([H:18])([H:19])[H:20].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([O:12][C:13]([C:14]([H:22])([H:23])[H:24])=[C:15]([H:16])[H:17])([H:18])([H:19])[H:20].[C:1]([H:5])([H:6])[H:7].[O:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:21],69.93971150723519
1462,[C:10]([H:11])([H:12])[H:13].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:10]([H:11])([H:12])[H:13].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],23.165151509223502
2781,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:23]1([H:31])[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]([H:34])[C:25]([H:33])=[C:24]1[H:32],36.79142041376326
663,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:19][H:20]>>[C:1]([H:8])([H:9])([H:10])[O:19][H:20].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],45.701812450715806
4138,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29].[H:15][C:20]([H:26])([H:27])[H:28],85.82997066195821
5016,[C:11]([C:12]([C:13]([H:14])[H:15])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3]([C:4]([H:9])[H:10])([H:8])[C:13]([C:12]([C:11]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:14])[H:15])([H:5])([H:6])[H:7],20.51466166501632
4804,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:19]1([C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([C:18]([H:31])([H:32])[H:33])[H:30])[C:20]([H:34])[C:21]([H:35])=[C:22]([H:36])[C:23]([H:37])=[C:24]1[H:38])[H:11])([H:8])([H:9])[H:10],25.609348803351168
